* ----------------------------------------------------------- 74LS04 ------
*  Hex Inverters
*
*  The TTL Logic Data Book, 1988, TI Pages 2-25 to 2-29
*  bss    2/3/94
*
.SUBCKT 74LS04  1A  1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 inv DPWR DGND
+     1A 1Y
+     DLY_LS04 IO_LS MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LS04 ugate (tplhTY=9ns tplhMX=15ns tphlTY=10ns tphlMX=15ns)

.ENDS  74LS04
*
*
* ----------------------------------------------------------- 74LS08 ------
*  Quad 2-Input And Gates   
*
*  The TTL Logic Data Book, 1988, TI Pages 2-41 to 2-45
*  bss    2/3/94
*
.SUBCKT 74LS08  1A 1B  1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 and(2) DPWR DGND
+     1A 1B 1Y
+     DLY_LS08 IO_LS MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LS08 ugate (tplhTY=8ns tplhMX=15ns tphlTY=10ns tphlMX=20ns)

.ENDS  74LS08
*
*
* ----------------------------------------------------------- 74LS32 ------
*  Quad 2-Input Or Gates
*
*  The TTL Logic Data Book, 1988, TI Pages 2-137 to 2-141
*  bss    2/9/94
*
.SUBCKT 74LS32  1A 1B 1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0

U1 or(2) DPWR DGND
+     1A 1B 1Y
+     DLY_LS32 IO_LS MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.model DLY_LS32 ugate (tplhTY=14ns tplhMX=22ns tphlTY=14ns tphlMX=22ns)

.ENDS  74LS32
*
*
